US07037938B2
To a solution of 2,2,2-trifluoro-N-[(1R)-2-(4-iodophenyl)-1-methylethyl]acetamide in dioxane (10 ml) was added 1N sodium hydroxide (12 ml) and the mixture was stirred for 1 hour at room temperature. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated to give [(1R)-2-(4-iodophenyl)-1-methylethyl]amine (2.34 g) as a yellow oil.

reactant | 2,2,2-trifluoro-N-[(1R)-2-(4-iodophenyl)-1-methylethyl]acetamide | FC(C(=O)N[C@@H](CC1=CC=C(C=C1)I)C)(F)F | C11H11F3INO
reactant | sodium hydroxide | 1N, 12 ml | [OH-].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | [(1R)-2-(4-iodophenyl)-1-methylethyl]amine | 2.34 g | IC1=CC=C(C=C1)C[C@@H](C)N | C9H12IN
